US05208248
To a stirred solution of 2-(5-carboethoxy-1H-indol-3-yl)ethylamine hydrochloride (2.0 g, 7.4 mmol) and di-tert-butyldicarbonate (2.06 g, 9.4 mmol) in dichloromethane (52 ml) at 0° C., was added triethylamine (1.3 ml, 9.4 mmol). The solution was stirred overnight at room temperature, then partitioned with water (50 ml). The organic layer was separated, dried (MgSO4) and evaporated in vacuo. The crude residue was chromatographed using 95:5 dichloromethane:methanol, to give N-(tert-butyloxycarbonyl)-2-(5-carboethoxy-1H-indol-3-yl)ethylamine (1.58 g, 64%) as an oil. NMR δ (250 MHz, CDCl3) 1.44 (12H, m), 2.88 (2H, t, J=7 Hz), 3.49 (2H, m), 4.41 (2H, q, J=7 Hz), 4.61 (1H, br s), 7.09 (1H, d, J=2 Hz), 7.37 (1H, d, J=9 Hz), 7.92 (1H, dd, J=9 and 2 Hz), 8.35 (2H, m).

reactant | 2-(5-carboethoxy-1H-indol-3-yl)ethylamine hydrochloride | 7.4 mmol, 2.0 g | Cl.C(=O)(OCC)C=1C=C2C(=CNC2=CC1)CCN
reactant | di-tert-butyldicarbonate | 9.4 mmol, 2.06 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 9.4 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 52 ml | ClCCl | CH2Cl2
product | N-(tert-butyloxycarbonyl)-2-(5-carboethoxy-1H-indol-3-yl)ethylamine | 1.58 g, 64% | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)C(=O)OCC | C18H24N2O4
